US06200988B1
1.27 (9H, S, C(CH3)3), 2.25 (3H, s, -CH3), 2.30 (6H, s, -CH3, >NCOCH3), 3.00 (2H, br, Indoline C3—H), 4.05 (2H, br, Indoline C2—H), 4.68 (2H, s, -CH2c l), 9.16 (1H, br, >NH). (3) N-(1-Acetyl-5-chloromethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide (21 g) was suspended in CH3CN (150 ml), and NaCN (8.1 g) and 18-crown-6 (870 mg) were added, which was followed by refluxing for 15 hr. CH3CN was evaporated under reduced pressure and CHCl3 (300 ml) was added. The mixture was washed with water and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The obtained residue was washed with boiling MeOH to give 15.5 g of N-(1-acetyl-5-cyanomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | NCOCH3 | C(#N)OC | C2H3NO
reactant | Indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | N-(1-Acetyl-5-chloromethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide | 21 g | C(C)(=O)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CCl)C | C18H25ClN2O2
reactant | NaCN | 8.1 g | [C-]#N.[Na+]
solvent | CH3CN | 150 ml | CC#N | C2H3N
catalyst | 18-crown-6 | 870 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | N-(1-acetyl-5-cyanomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 15.5 g | C(C)(=O)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CC#N)C | C19H25N3O2
